US05872272
200 g (2.7 mol) of tert-butanol, 100 g (0.625 mol) of 1,9-nonanediol and 2 g of sulfuric aid were placed in a 500 ml round bottomed flask, and refluxed with heat for 5 hours, followed by neutralizing with an aqueous sodium hydroxide solution. After unreacted tert-butanol was evaporated, hexane was added and stirred. The diol insoluble in hexane was discarded by filtration. The hexane layer was washed with water, and dried with anhydrous sodium sulfate. After filtration, the solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/chloroform) to obtain 35 g of 9-tert-butoxy-1-nonanol as a colorless oil.

reactant | tert-butanol | 2.7 mol, 200 g | C(C)(C)(C)O | C4H10O
reactant | 1,9-nonanediol | 0.625 mol, 100 g | C(CCCCCCCCO)O | C9H20O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 9-tert-butoxy-1-nonanol | 35 g | C(C)(C)(C)OCCCCCCCCCO | C13H28O2
